US06451814B1
4-(4-{2-[(2S)-2-Hydroxy-3-(4-hydroxy-phenoxy)-propylamino]-ethyl}-phenylamino)-piperidine-1-carboxylic Acid [2-(3-methoxy-phenyl)-ethyl]-amide
4-[4-(2-{[(2S)-3-(4-{[tert-Butyl(diphenyl)silyl]oxy}phenoxy)-2-hydroxy-propyl]amino}ethyl)anilino]-N-(3-methoxyphenethyl)-1-piperidinecarboxamide (0.110 g, 0.14 mmol) was reacted according to Procedure H to yield (eluant: 5:1 chloroform-methanol) the title compound (0.025 g, 0.044 mmol).

reactant | 4-[4-(2-{[(2S)-3-(4-{[tert-Butyl(diphenyl)silyl]oxy}phenoxy)-2-hydroxy-propyl]amino}ethyl)anilino]-N-(3-methoxyphenethyl)-1-piperidinecarboxamide | 0.14 mmol, 0.110 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1=CC=C(OC[C@H](CNCCC2=CC=C(NC3CCN(CC3)C(=O)NCCC3=CC(=CC=C3)OC)C=C2)O)C=C1 | C48H60N4O5Si
solvent | chloroform methanol | C(Cl)(Cl)Cl.CO
product | 4-(4-{2-[(2S)-2-Hydroxy-3-(4-hydroxy-phenoxy)-propylamino]-ethyl}-phenylamino)-piperidine-1-carboxylic Acid [2-(3-methoxy-phenyl)-ethyl]-amide | 0.044 mmol, 0.025 g | COC=1C=C(C=CC1)CCNC(=O)N1CCC(CC1)NC1=CC=C(C=C1)CCNC[C@@H](COC1=CC=C(C=C1)O)O | C32H42N4O5
